US07151105B2
Step 2: 6-Cyclopentyl-6-[2-(5-fluoro-4-hydroxymethyl-2-methoxy-phenyl)-ethyl]-dihydro-pyran-2,4-dione
The desired product was prepared analogously to example A(2), where 6-[2-cyclopentyl-4-(5-fluoro-4-hydroxymethyl-2-methoxy-phenyl)-2-hydroxy-but-3-ynyl]-2,2 dimethyl-[1,3]dioxin-4-one (1.28 g, 3.03 mmol) was substituted in place 6-[2-Cyclopentyl-4-(2-ethyl-5-methoxy-pyridin-4-yl)-2-hydroxy-but-3-ynyl]-2,2-dimethyl-[1,3]dioxin-4-one. Yield: 1.4 g, 38%. 1H NMR (400 MHz, CDCl3) δ: 1.37–1.49 (1 H, m) 1.53–1.97 (9 H, m) 2.53–2.6 (1 H, m) 2.64–2.7 (1 H, m) 2.75 (2 H, s) 3.41 (2 H, s) 3.79 (3 H, s) 4.71 (2 H, s) 6.79 (1 H, d, J=9.85 HZ) 6.87 (1 H, d, J=5.81 Hz). MS (ESI): 363 (M−H).

reactant | 6-[2-cyclopentyl-4-(5-fluoro-4-hydroxymethyl-2-methoxy-phenyl)-2-hydroxy-but-3-ynyl]-2,2 dimethyl-[1,3]dioxin-4-one | 3.03 mmol, 1.28 g | C1(CCCC1)C(CC1=CC(OC(O1)(C)C)=O)(C#CC1=C(C=C(C(=C1)F)CO)OC)O | C23H27FO6
reactant | 6-[2-Cyclopentyl-4-(2-ethyl-5-methoxy-pyridin-4-yl)-2-hydroxy-but-3-ynyl]-2,2-dimethyl-[1,3]dioxin-4-one | C1(CCCC1)C(CC1=CC(OC(O1)(C)C)=O)(C#CC1=CC(=NC=C1OC)CC)O | C23H29NO5
product | 6-Cyclopentyl-6-[2-(5-fluoro-4-hydroxymethyl-2-methoxy-phenyl)-ethyl]-dihydro-pyran-2,4-dione | C1(CCCC1)C1(CC(CC(O1)=O)=O)CCC1=C(C=C(C(=C1)F)CO)OC | C20H25FO5
